US07151105B2
Step 1: 2-(4-Bromo-2-ethyl-benzyl)-isoindole-1,3-dione
To 4-bromo-1-bromomethyl-2-ethyl-benzene (4.0 g, 14.2 mmol) in dimethylformamide (100 mL) at room temperature was added potassium phthalimide (2.9 g, 15.6 mmol), and the solution was heated at 80° C. for 5 h. The solution was cooled to room temperature and poured into water. The aqueous solution was extracted with ethyl acetate. The pooled organics were washed with saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to a yellow solid (4.0 g, 82%).

reactant | 4-bromo-1-bromomethyl-2-ethyl-benzene | 14.2 mmol, 4.0 g | BrC1=CC(=C(C=C1)CBr)CC | C9H10Br2
reactant | potassium phthalimide | 15.6 mmol, 2.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-(4-Bromo-2-ethyl-benzyl)-isoindole-1,3-dione | BrC1=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1)CC | C17H14BrNO2
